US07572801B2
2,4-Dichloro-5-methyl-pyrido[2,3-d]pyrimidine (302 mg, 1.4 mmol) was suspended at ambient temperature in aqueous 1N NaOH solution (6 ml) and stirred for 1 h. The pH was adjusted to 7 with aqueous 25% HCl solution and the mixture was washed two times with dichloromethane. The aqueous layer was brought to dryness under reduced pressure to give 344 mg (1.48 mmol; quant.) 2-chloro-5-methyl-3H-pyrido[2,3-d]pyrimidin-4-one hydrochloride as off-white solid which was used in the next step without further purification. MS: m/e=195.9 [M+H+].

reactant | 2,4-Dichloro-5-methyl-pyrido[2,3-d]pyrimidine | 1.4 mmol, 302 mg | ClC=1N=C(C2=C(N1)N=CC=C2C)Cl | C8H5Cl2N3
reactant | NaOH | 1N, 6 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
product | 2-chloro-5-methyl-3H-pyrido[2,3-d]pyrimidin-4-one hydrochloride | 1.48 mmol, 344 mg | Cl.ClC=1NC(C2=C(N1)N=CC=C2C)=O | InChI=1S/C8H6ClN3O.ClH/c1-4-2-3-10-6-5(4)7(13)12-8(9)11-6;/h2-3H,1H3,(H,10,11,12,13);1H
